US04317915
A solution of 41.1 g. (0.217 mole) of 4-carbomethoxy-3-keto-2-methyltetrahydrothiophene oxime in 600 ml. anhydrous ether, previously saturated with gaseous hydrogen chloride at 0°, was allowed to stir at 25° overnight. The separated solid was collected, washed well with ether, and dried to afford 33.2 g. Evaporation of the filtrate yielded after recrystallization of the residue an additional 4.2 g. to afford a total yield of pure 3-amino-4-carbomethoxy-2-methylthiophene hydrochloride of 37.4 g. (84%). The compound melts 191°-192°.

reactant | 4-carbomethoxy-3-keto-2-methyltetrahydrothiophene oxime | 0.217 mole | C(=O)(OC)C1C(C(SC1)C)=NO | C7H11NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 3-amino-4-carbomethoxy-2-methylthiophene hydrochloride | Cl.NC1=C(SC=C1C(=O)OC)C | InChI=1S/C7H9NO2S.ClH/c1-4-6(8)5(3-11-4)7(9)10-2;/h3H,8H2,1-2H3;1H
